US06107458
To a mixture of Methyl 3,4-diaminobenzoate (1.91 g) and triethylamine (0.56 g) in N,N-dimethylformamide (20 ml) was added decanoyl chloride (2.31 g), and the mixture was stirred for an hour at 0° C. The reaction mixture was diluted with ethyl acetate, and washed with water and brine. The separated organic layer was dried over magnesium sulfate. The magnesium sulfate was filtered off, and filtrate was evaporated under reduced pressure. The residue was dissolved in methanol (20 ml), and conc. sulfuric acid (0.05 ml) was added, and the mixture was stirred for 6 hours at 60° C. After cooling, the reaction mixture was evaporated under reduced pressure. The residue was diluted with ethyl acetate, and washed with water and brine. The separated organic layer was dried over magnesium sulfate. The magnesium sulfate was filtered off, and filtrate was evaporated under reduced pressure. Purification of the residue by column chromatography on silica gel eluted with (n-hexane:ethyl acetate=3:1) gave 5-methoxycarbonyl-2-nonylbenzimidazole (1.40 g).

reactant | Methyl 3,4-diaminobenzoate | 1.91 g | NC=1C=C(C(=O)OC)C=CC1N | C8H10N2O2
reactant | triethylamine | 0.56 g | C(C)N(CC)CC | C6H15N
reactant | decanoyl chloride | 2.31 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxycarbonyl-2-nonylbenzimidazole | 1.40 g | COC(=O)C1=CC2=C(N=C(N2)CCCCCCCCC)C=C1 | C18H26N2O2
